### PR TITLE
[Merged by Bors] - feat: basic `Vector.inductionOn` API

### PR DESCRIPTION
**Pull request by llllvvuu**
Also make the case names slightly nicer for when using the syntax:
```lean
induction v using Vector.inductionOn with
| nil => sorry
| cons ih => sorry
```

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Vector/Basic.lean [hunk 1]
```diff
@@ -447,17 +447,26 @@ and `h_cons` defines the inductive step using `∀ x : α, C w → C (x ::ᵥ w)
...
-    exact h_nil
+    exact nil
   · rcases v with ⟨_ | ⟨a, v⟩, v_property⟩
     cases v_property
-    apply @h_cons n _ ⟨v, (add_left_inj 1).mp v_property⟩
-    apply ih
+    exact cons (ih ⟨v, (add_left_inj 1).mp v_property⟩)
 #align vector.induction_on Vector.inductionOn
 
+theorem inductionOn_nil {C : ∀ {n : ℕ}, Vector α n → Sort*}
```
Comment (eric-wieser) [inline Mathlib/Data/Vector/Basic.lean:460]: Let's make these both `simp`

**Review by eric-wieser — APPROVED** [review]
bors d+
